US07776875B2
Preparation of Intermediate 2-(4-chloro-2-formyl-phenoxy)-2-propyl-pentanoic acid ethyl ester
A solution of 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-propyl-pentanoic acid ethyl ester (15 g, 42 mmol) in TFA (30 mL) was stirred at room temperature overnight. Then the mixture was concentrated and the residue was partitioned between EtOAc and water. The organic layer was washed with NaOH solution (1 N), water, dried over anhydrous Na2SO4 and concentrated to give the title compound (14 g).

reactant | 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-propyl-pentanoic acid ethyl ester | 42 mmol, 15 g | C(C)OC(C(CCC)(CCC)OC1=C(C=C(C=C1)Cl)C1OCCO1)=O | C19H27ClO5
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(4-chloro-2-formyl-phenoxy)-2-propyl-pentanoic acid ethyl ester | 14 g | C(C)OC(C(CCC)(CCC)OC1=C(C=C(C=C1)Cl)C=O)=O | C17H23ClO4
